US06069141
Preparation of N-({3-[3-fluoro-4-(1-oxo-1lambda4,4-thiazinan-4-yl)phenyl}-4,5-dihydro-5-isoxazolyl}methyl)acetamide
1.0 g (2.97 mmol) of N-({3-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-4,5-dihydro-5-isoxazolyl}methyl)acetamide is suspended in 20 ml methanol/5 ml acetone in a 100 ml one neck round bottom flask. The suspension is treated with sodium meta periodate (666 mg, 3.12 mmole) in 20 ml water and the reaction mixture is stirred 48 hours at room temperature. The organics are removed in vacuo and the aqueous residue is filtered to remove a fine white solid. The solid is washed with water followed by diethyl ether to give 902 mg the title compound) as a solid. mp=204-205° C.

reactant | N-({3-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-4,5-dihydro-5-isoxazolyl}methyl)acetamide | 2.97 mmol, 1.0 g | FC=1C=C(C=CC1N1CCSCC1)C1=NOC(C1)CNC(C)=O | C16H20FN3O2S
reactant | sodium meta periodate | 3.12 mmole, 666 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | N-({3-[3-fluoro-4-(1-oxo-1lambda4,4-thiazinan-4-yl)phenyl}-4,5-dihydro-5-isoxazolyl}methyl)acetamide | 902 mg | FC=1C=C(C=CC1N1CCS(CC1)=O)C1=NOC(C1)CNC(C)=O | C16H20FN3O3S
